US04943384
15 g of m-chloroperbenzoic acid are added at 0° to a solution of 20 g of p-(4-n-propylcyclohex-1-en-1-yl)-n-pentylbenzene (German Offenlegungsschrift 3,006,666) in 100 ml of ether, and the mixture is stirred for 16 hours. The reaction mixture is extracted several times with 10% sodium hydroxide solution, and the organic phase is dried with sodium sulfate. 40 ml of BF3 /ether complex (50% of BF3) are added to the resulting solution of epoxide, and the mixture is stirred for 5 minutes and is then poured onto ice. Working up in the customary manner gives trans-2-(p-n-pentylphenyl)-5-n-propylcyclohexanone. b.p. (0.1 mm Hg) 140°, c.p. -10°.

reactant | m-chloroperbenzoic acid | 15 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | p-(4-n-propylcyclohex-1-en-1-yl)-n-pentylbenzene | 20 g | C(CC)C1CC=C(CC1)C1=CC=C(C=C1)CCCCC | C20H30
solvent | ether | 100 ml | CCOCC | C4H10O
product | trans-2-(p-n-pentylphenyl)-5-n-propylcyclohexanone | C(CCCC)C1=CC=C(C=C1)[C@@H]1C(C[C@H](CC1)CCC)=O | C20H30O
